2106-06-24 23:34:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   93W here for the 6th time in 6 months - admitted again with respiratory
   failure. Niece was contact[**Name (NI) **] and she pushed for intubation which was
   done by anesthesia via nose. Was febrile in ER. Details of events in
   nursing home are unclear.
   [**Name2 (NI) **] unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   completed antibiotics a week and a half ago
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-24**] 11:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 80 (76 - 99) bpm
   BP: 98/53(63) {98/48(61) - 116/91(96)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    420 mL
   Urine:
   420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, sacral decub dressed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opening eyes, not following commands
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   This is Mrs.[**Known lastname 6373**] 5th intubation in 5 months. During previous
   admissions, she was made DNR/I by her HCP though she continues to be
   re-intubated. This is her 3rd episode on respiratory failure in the
   past month and a half. It has been decided already that a trach will
   not be pursued.
   There is no hope that Mrs. [**Known lastname 2930**] will achieve an acceptable quality of
   life with further invasive and aggressive medical care. She has
   demonstrated that she is no longer able to breath independently for
   periods longer than a week or two. The decision has been made to avoid
   trach placement thus the best possible outcome is repeated episodes of
   respiratory failure followed by short periods of breathing
   independently. We will therefore focus our care upon the comfort and
   dignity of Mrs. [**Known lastname 2930**] and not treat her aggressively beyond that. This
   approach can be validated by other members of the ICU team and shared
   with the niecce once a concensus has been established. The pain and
   discomfort caused by the care provided over the past month and a half
   far outweighs the shortlived clinical improvements that have been
   transiently achieved.
   For now, she has received antibiotics in the ER and as noted above is
   already on the vent.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-24**] 06:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2106-06-25 08:16:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2106-6-24**] 03:34 PM
 PICC LINE - START [**2106-6-24**] 06:18 PM
   Per discussion with Dr. [**Last Name (STitle) **] overnight care focused on comfort
   measures
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-25**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 80 (75 - 99) bpm
   BP: 108/49(62) {90/46(57) - 116/91(96)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    445 mL
                                                                    195 mL
   Urine:
                                                                    445 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -445 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.3 L/min
   Physical Examination
   Thin elderly woman in no distress
   Nasal intubation, no further bleeding apparent from nares
   Lungs clear bilaterally, no rales or wheezing
   Regular S1 S2 no m/r/g
   Abd soft nontender +bowel sounds
   Extrem warm no edema palpable distal pulsees
   Labs / Radiology
        [image002.jpg]
   No labs today
   Assessment and Plan
   [**Age over 90 **]F with h/o multiple hospitalizations for pna, recent ESBL UTI
   presents with SOB and fever.  Given multiple comorbidities, CPR and
   further recussitation is not indicated.  As such, will contact the HCP
   and let her know that goals of care will be focused on comfort. Will
   wean vent with plan for extubation today.
   ICU Care
   Nutrition: Holding TF for now.
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-24**] 06:18 PM
   20 Gauge - [**2106-6-24**] 08:00 PM
   Prophylaxis:
   DVT: n/a
   Stress ulcer: n/a
   VAP:  n/a
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2106-06-25 09:15:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: respiratory failure
   HPI: 93W here for the 6th time in 6 months - admitted again with
   respiratory failure. Niece was contact[**Name (NI) **] and she pushed for intubation
   which was done by anesthesia via nose. Was febrile in ER. Details of
   events in nursing home are unclear.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2106-6-24**] 03:34 PM
 PICC LINE - START [**2106-6-24**] 06:18 PM
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-25**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 80 (75 - 99) bpm
   BP: 108/49(62) {90/46(57) - 116/91(96)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             2 mL
   PO:
             TF:
   IVF:
   2 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                    195 mL
   Urine:
                                                                    445 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -445 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8.3 L/min
   Physical Examination
   Gen:severe kyphosis
   HEENT:PERRL, ETT in place NT
   Heart:RRR s1s2
   Lungs:CTA anteriorly
   Abd:soft
   Ext:no edema
   Labs / Radiology
   500
   .5
   27
   12
        [image002.jpg]
   7.39/53/[**Street Address(2) 6396**] @ 126, nl axis and intervals, <1mm STD V4-V6, TWI vL and I
   Assessment and Plan
   This is Mrs.[**Known lastname 6373**] 5th intubation in 5 months. During previous
   admissions, she was made DNR/I by her HCP though she continues to be
   re-intubated. This is her 3rd episode on respiratory failure in the
   past month and a half. It has been decided already that a trach will
   not be pursued.
   There is no hope that Mrs. [**Known lastname 2930**] will achieve an acceptable quality of
   life with further invasive and aggressive medical care. She has
   demonstrated that she is no longer able to breath independently for
   periods longer than a week or two. The decision has been made to avoid
   trach placement thus the best possible outcome is repeated episodes of
   respiratory failure followed by short periods of breathing
   independently. We will therefore focus our care upon the comfort and
   dignity of Mrs. [**Known lastname 2930**] and not treat her aggressively beyond that. This
   approach can be validated by other members of the ICU team and shared
   with the niecce once a concensus has been established. The pain and
   discomfort caused by the care provided over the past month and a half
   far outweighs the shortlived clinical improvements that have been
   transiently achieved.
   Discussed care with Dr. [**Last Name (STitle) 2138**] and that her current respiratory status
   is back to where she was prior to her last extubation.  We discussed in
   detail the inability of Mrs. [**Known lastname 2930**] to live off the ventilator when she
   has a fever or infectious process.  We also discussed the large sacral
   ulcer which cannot be cured with antibiotics alone.  She wishes to
   extubate and if Mrs. [**Known lastname 2930**] fails extubation she will be made CMO.  If
   she passes extubation she will be continue on a course of abx for UTI
   and tube feeds continued and she will be transferred back to her NH
   with a do not transfer back to the hospital order.  If she fails again
   at the nursing home she will be transitioned to comfort directed care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-24**] 06:18 PM
   20 Gauge - [**2106-6-24**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2106-06-26 07:47:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-6-25**] 02:33 PM
   .
   - discussion with [**Doctor Last Name **] overnight: NO antibiotics or other
   interventions. only pain/sedation meds
   - added back tube feeds and meropenem after discussion w/ HCP
   - extubated and did well
   - info from [**Name (NI) **] - HCP always reverses code status when she becomes ill
   and wants her to be sent to the hospital
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-6-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-26**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 82 (79 - 97) bpm
   BP: 118/48(65) {97/29(47) - 121/65(74)} mmHg
   RR: 23 (15 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    207 mL
                                                                    380 mL
   PO:
             TF:
             80 mL
   IVF:
                                                                    207 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    485 mL
                                                                    280 mL
   Urine:
                                                                    485 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -278 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 289 (289 - 289) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 120
   PIP: 13 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Imaging: [**6-24**] Port CXR
   IMPRESSION: AP chest compared to [**6-24**] and [**6-4**]:
   Severe contracture places the head over the left hemithorax which is
   not
   evaluated radiographically. Right lung is clear and there is no
   appreciable
   right pleural effusion.
   The study and the report were reviewed by the staff radiologist.
   Microbiology: [**2106-6-24**] 3:15 pm URINE     Site: CLEAN CATCH
      URINE CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
   [**6-24**] Blood cx w/ NGTD X 2
   Assessment and Plan:
   [**Age over 90 **]F with h/o multiple hospitalizations for pna, recent ESBL UTI
   presents with SOB and UTI.
   # Respiratory failure: Has been intubated/extubated multiple times and
   now is s/p successful extubation again yesterday.  Likely from altered
   mental status in the setting of infection.  O2 sats now 97% on 2L NC
   and breathing comfortably.
   # GNR UTI: On Meropenem given h/o ESBL UTIs.
   -          f/u speciation/sensitivities
   # Anemia: Hct stable.
   -          trend for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-6-26**] 12:00 AM 20 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2106-6-24**] 06:18 PM
   20 Gauge - [**2106-6-24**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI.  Given multiple comorbidities, CPR and further
   recussitation is not indicated per Dr. [**Last Name (STitle) 6440**] and Dr. [**First Name (STitle) 803**].  HCP
   wishes for antibiotics and continued TF.
   Disposition:Transfer to rehab / long term care facility

2106-06-26 11:13:00 Physician Attending Progress Note
Chief Complaint: sacral decub and uti and resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F with sacral decub, recurrent pna, and esbl uti,
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-6-25**] 02:33 PM
   Extubated yesterday; doing well. tube feeds restarted
   History obtained from Patient
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-6-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   meropenem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: No(t) Dry mouth
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, Foley
   Psychiatric / Sleep: No(t) Delirious, dementia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-6-26**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 82 (79 - 97) bpm
   BP: 118/48(65) {97/29(47) - 121/65(74)} mmHg
   RR: 23 (15 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    207 mL
                                                                    444 mL
   PO:
             TF:
             144 mL
   IVF:
                                                                    207 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    485 mL
                                                                    280 mL
   Urine:
                                                                    485 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -278 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 120
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   399 K/uL
   84 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.2 mEq/L
   22 mg/dL
   100 mEq/L
   139 mEq/L
   23.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2106-6-26**]  07:41 AM
   WBC
   7.1
   Hct
   23.0
   Plt
   399
   Cr
   0.3
   Glucose
   84
   Other labs: PT / PTT / INR:13.9/32.6/1.2, Ca++:8.4 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Imaging: no new
   Microbiology: UTI: esbl e.coli
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 ATRIAL FIBRILLATION (AFIB)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   93F with demential, p/w uti and respiratory failure of unclear
   etiology, now much improved. Goals of care readdrressed and now DNR/DNI
   but not CMO (abx and tube feeds ok):
   UTI
   -add on [**Last Name (un) **] sensitivities
   -cont [**Last Name (un) **] for now (can switch to zosyn or bactrim)
   RESP FAILURE: resolved, likely from poor mental status
   -no evidence of pna
   SACRAL DECUB: stable
   -cont wound care
   GOALS OF CARE:
   -DNR/DNI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-6-26**] 12:00 AM 20 mL/hour
   Comments: tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2106-6-24**] 06:18 PM
   20 Gauge - [**2106-6-24**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to rehab today
   Total time spent: 15 minutes